US07592456B2
Step 1: 1-(2-Iodobenzyl)-1H-1,2,4-triazole
To a stirring solution of 1,2,4-triazole (1.02 g, 14.8 mmol) and 2-iodobenzyl bromide (6.05 g, 20.3 mmol) in THF (10 mL) was added a solution of DBU (2.65 g, 17.4 mmol) in THF (2 mL) dropwise over a 1 hour period. The mixture was stirred at ambient temperature for 12 hours after which it was filtered. The filtrate was concentrated in vacuo and the resultant residue was dissolved in ethyl acetate. The organic layer was washed with water and brine, dried (MgSO4) and evaporated in vacuo. The residue was purified by flash column chromatography on silica, eluting with 50-60% ethyl acetate/isohexane to give the title compound as a white solid (1.45 g). 1H NMR (360 MHz, CDCl3): δ 8.15 (1H, s), 8.00 (1H, s), 7.89 (1H, d, J=7.9 Hz), 7.36 (1H, t, J=7.6 Hz), 7.13 (1H, d, J=7.7 Hz), 7.08-7.04 (1H, m), 5.43 (2H, s).

reactant | 1,2,4-triazole | 14.8 mmol, 1.02 g | N1N=CN=C1 | C2H3N3
reactant | 2-iodobenzyl bromide | 20.3 mmol, 6.05 g | IC1=C(CBr)C=CC=C1 | C7H6BrI
reactant | DBU | 17.4 mmol, 2.65 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(2-Iodobenzyl)-1H-1,2,4-triazole | 1.45 g | IC1=C(CN2N=CN=C2)C=CC=C1 | C9H8IN3
